US07465795B2
4-amino-N-cyclopropyl-8-(2-fluoro-3-methoxyphenyl)cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide (143 mg, 0.47 mmol) and 2-fluoro-3-methoxyphenylboronic acid (158 mg, 0.94 mmol) were reacted. After purification the title compound (128 mg, 78% yield) was obtained as a white solid. 1H NMR (500 MHz, DMSO-d6) δ 9.04(d, J=4.9 Hz, 1H), 8.48 (dd, J=2.6, 7.2 Hz, 1H), 7.79 (m, 2H), 7.23 (m, 2H), 7.02 (m, 1H), 3.90 (s, 3H), 2.95 (m, 1H), 0.67 (m, 4H). MS APCI, m/z=353.

reactant | 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide | 0.47 mmol, 143 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NC1CC1 | C12H11BrN4O
reactant | 2-fluoro-3-methoxyphenylboronic acid | 0.94 mmol, 158 mg | FC1=C(C=CC=C1OC)B(O)O | C7H8BFO3
product | 4-amino-N-cyclopropyl-8-(2-fluoro-3-methoxyphenyl)cinnoline-3-carboxamide | 128 mg, 78% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C(=CC=C1)OC)F)C(=O)NC1CC1 | C19H17FN4O2
